US06407124B1
To a solution of 2-amino-5-[(E)-2-(5-t-butyl-oxazol-2-yl)-vinyl]-thiazole (20 mg, 0.08 mmol) in dry CH2Cl2 (1 mL) was added dry DMF (0.1 mL) and N,N-diisopropylethylamine (28 μL, 0.16 mmol). The resulting solution was cooled to 0° C. and phenyl acetyl chloride (21 μL, 0.16 mmol) was added via syringe. The reaction mixture was allowed to warm to room temperature over two hours and then concentrated. Chromatography (SiO2, 5% MeOH/CH2Cl2) provided a N-[5-(2-(5-t-butyl-oxazol-2-yl)-vinyl)-thiazol-2-yl]-phenylacetamide as a mixture of Z and E isomers which were separated by reverse-phase HPLC to give the Z isomer (3 mg, 10%, MS m/e 368 (M+H)+) as a light yellow solid, and the E isomer (3 mg, 10%, C20H21N3O2S, MS m/e 368 (M+H)+) as a yellow solid. (Z)-isomer: HPLC-HI 86% at 4.05 min (YMC S5 ODS column 4.6×50 mm, 10-90% aqueous methanol over 4 minutes containing 0.1% TFA, 4 mL/min, monitoring at 254 nm). (E) -isomer: HPLC-HI 84% at 4.18 min (YMC S5 ODS column 4.6×50 mm, 10-90% aqueous methanol over 4 minutes containing 0.1% TFA, 4 mL/min, monitoring at 254 nm).

reactant | 2-amino-5-[(E)-2-(5-t-butyl-oxazol-2-yl)-vinyl]-thiazole | 0.08 mmol, 20 mg | NC=1SC(=CN1)\C=C\C=1OC(=CN1)C(C)(C)C | C12H15N3OS
reactant | DMF | 0.1 mL | CN(C)C=O | C3H7NO
reactant | N,N-diisopropylethylamine | 0.16 mmol, 28 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phenyl acetyl chloride | 0.16 mmol, 21 μL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-[5-(2-(5-t-butyl-oxazol-2-yl)-vinyl)-thiazol-2-yl]-phenylacetamide | C(C)(C)(C)C1=CN=C(O1)C=CC1=CN=C(S1)NC(CC1=CC=CC=C1)=O | C20H21N3O2S
